US07414055B2
To a mixture of 6-(4-methylphenyl)-5-phenylnicotinonitrile (0.250 g, 0.925 mmol) in CDCl3 (6 mL) was added NBS (0.173 g, 0.971 mmol) and benzoyl peroxide (0.045 g, 0.185 mmol). The reaction was heated to reflux for 15 hr. The reaction mixture was then cooled and concentrated to give crude 6-[4-(bromomethyl)phenyl]-5-phenylnicotinonitrile. LRMS m/z (M+H) calcd: 348.9, found: 348.9.

reactant | 6-(4-methylphenyl)-5-phenylnicotinonitrile | 0.925 mmol, 0.250 g | CC1=CC=C(C=C1)C1=NC=C(C#N)C=C1C1=CC=CC=C1 | C19H14N2
reactant | NBS | 0.971 mmol, 0.173 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 0.185 mmol, 0.045 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 6-[4-(bromomethyl)phenyl]-5-phenylnicotinonitrile | BrCC1=CC=C(C=C1)C1=NC=C(C#N)C=C1C1=CC=CC=C1 | C19H13BrN2
